US06333324B1
A solution of phenyl isocyanate (38 mg) in CHCl3 (1 ml) was added to a solution of (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide (150 mg) in CHCl3 (3 ml). After stirring for 30 minutes at ambient temperature, the reaction mixture was concentrated in vacuo to give 203 mg of (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-[(N-phenyl)aminocarbonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide as an amorphous powder.

reactant | phenyl isocyanate | 38 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 150 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CNCC1)C(=O)NOC1OCCCC1 | C20H24FN3O5S2
solvent | CHCl3 | 1 ml | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 3 ml | C(Cl)(Cl)Cl | CHCl3
product | (2R)-1-[5-(4-fluorophenyl)thiophene-2-sulfonyl]-4-[(N-phenyl)aminocarbonyl]-N-(2-tetrahydropyranyloxy)-2-piperazinecarboxamide | 203 mg | FC1=CC=C(C=C1)C1=CC=C(S1)S(=O)(=O)N1[C@H](CN(CC1)C(=O)NC1=CC=CC=C1)C(=O)NOC1OCCCC1 | C27H29FN4O6S2
